* leung_dfcfc1_pin_3 -- AnalogGym topology on TSMC16 BSIM-CMG (LEVEL=72)
* Connectivity and mirror ratios are the shipped ones; geometry is re-designed for 0.8 V FinFET.
.subckt leung_dfcfc1_pin_3 gnda vdda vinn vinp vout
Nm12 VOUT net050 VDDA VDDA psvt_l36_f10 m=43   $ gmf2_PMOS
Nm7 net049 net013 VDDA VDDA psvt_l113_f4 m=2   $ BIASCM_PMOS
Nm11 net043 net050 VDDA VDDA psvt_l60_f8 m=8   $ gm2_PMOS
Nm6 net050 VOUTN VDDA VDDA psvt_l113_f4 m=2   $ BIASCM_PMOS
Nm5 VOUTN VOUTN VDDA VDDA psvt_l113_f4 m=2   $ BIASCM_PMOS
Nm10 net063 VINP net31 net31 psvt_l60_f8 m=2   $ gm1_PMOS
Nm9 DM_2 VINN net31 net31 psvt_l60_f8 m=2   $ gm1_PMOS
Nm4 net31 net013 VDDA VDDA psvt_l113_f4 m=4   $ BIASCM_PMOS
Nm3 VB3 net013 VDDA VDDA psvt_l113_f4 m=2   $ BIASCM_PMOS
Nm2 DM_1 net013 VDDA VDDA psvt_l113_f4 m=2   $ BIASCM_PMOS
Nm8 net1 net013 VDDA VDDA psvt_l113_f4 m=2   $ BIASCM_PMOS
Nm1 VB4 net013 VDDA VDDA psvt_l113_f4 m=2   $ BIASCM_PMOS
Nm0 net013 net013 VDDA VDDA psvt_l113_f4 m=2   $ BIASCM_PMOS
Nm25 VOUT net049 GNDA GNDA nsvt_l36_f12 m=85   $ gm3_NMOS
Nm23 net049 net043 GNDA GNDA nsvt_l113_f4 m=2   $ LOAD2_NMOS
Nm22 net043 net043 GNDA GNDA nsvt_l113_f4 m=2   $ LOAD2_NMOS
Nm20 DM_2 VB4 GNDA GNDA nsvt_l113_f4 m=16   $ BIASCM_NMOS
Nm16 VOUTN VB3 DM_2 GNDA nsvt_l113_f4 m=8   $ BIASCM_NMOS
Nm21 net063 VB4 GNDA GNDA nsvt_l113_f4 m=16   $ BIASCM_NMOS
Nm17 net050 VB3 net063 GNDA nsvt_l113_f4 m=8   $ BIASCM_NMOS
Nm18 net54 VB4 GNDA GNDA nsvt_l113_f4 m=8   $ BIASCM_NMOS
Nm24 net1 net049 GNDA GNDA nsvt_l60_f6 m=4   $ gm4_NMOS
Nm15 VB3 VB3 GNDA GNDA nsvt_l113_f4 m=2   $ BIASCM_NMOS
Nm13 VB4 VB3 net54 GNDA nsvt_l113_f4 m=8   $ BIASCM_NMOS
Nm19 net56 VB4 GNDA GNDA nsvt_l113_f4 m=8   $ BIASCM_NMOS
Nm14 DM_1 VB3 net56 GNDA nsvt_l113_f4 m=8   $ BIASCM_NMOS
I0 net013 GNDA 1.82857e-06
C1 net049 net1 6.25e-12
C0 net050 VOUT 1.25e-11
.ends leung_dfcfc1_pin_3
